Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Episodes of unresponsiveness
 
Major Surgical or Invasive Procedure:
___ omental nodule biopsy - ___

 
History of Present Illness:
___ is a ___ ___ male with a PMHx of HTN, HL, 
obesity,
multiple acute small bilateral ischemic strokes (___), 
and
possible OSA (no formal diagnosis) who presents with four
episodes of unresponsiveness. 

He was in his USOH when he woke up this morning (___). His
family drove him to ___ for his son's wedding at 3pm. He
made it through the ceremony without incident. 
While sitting down at the reception at 8pm, his family noticed
this his eyes rolled in a circle and then deviated off to one
side (but family not sure which side). He was also leaning to 
one
side (but didn't fall, family not sure which side). He had LOC
and was unresponsive to questions, but his eyes remained open. 
He
also had diaphoresis, drooling, and pursed lips. His "whole body
tensed" during this event, which his son identified when he put
his arms on his dad's shoulders and noticed that they were 
tense.
This entire event lasted 2 minutes, and the patient was
subsequently back at baseline. The patient only recalls the
vomiting; he does not recall the other symptoms above. 

A second event occurred that was just the like the first and
again lasted 2 minutes or so. Subsequently, the patient became
dysarthric, had N/V, and his lids drooped as though he was 
sleepy
(but his lids would open up if called). There was no confusion
after the event, per his son, and the patient knew who he was,
where he was, and what the date was (family asked him these
questions). A third similar event with vomiting afterward
occurred in the car on the way to ___ around 9pm. A fourth
similar event occurred in the ___ ED. At the time of 
interview,
the son felt that his father was still dysarthric but otherwise
back to baseline. The patient still reports a little nausea but
otherwise denies new symptoms or deficits including dysarthria.

He had a similar episode 2 months ago while standing and talking
to his wife. ___ see MD at that time. No prior similar
episodes. No auras, ___, no gastric rising, no rhythmic
shaking, no TB, and no incontinence with these episodes. 
Normally
sleeps well, last night went to bed at 2am (atypical) and awoke
at 7am. Didn't wake up in between these times. Drank 1 beer on
___. Normally drinks ___ beers daily (closer to 4, per son). No
problems during delivery or pregnancy. Normal development. No
febrile seizures. No FHx seizures. No new substances or 
illicits.
No antecedent infections or traumas. 

Also reports lightheadedness for ___ months (also in PCP ___
when standing only. Intermittent, not every time he stands up. 
No
LH today. Denies vertigo or dysequelibrium. He has also
intermittently had CP, which can occur at rest, including the 
day
prior to his episodes of unresponsiveness. The CP is a
pressure-like along the midline and non-radiating. There is no
associated nausea or sweating, no jaw pain, no arm pain. No CP 
on
day of unresponsiveness episodes. Denies palpitations and SOB.

Of note, in ___, he presented with right sided weakness;
specifically, his writing was clumsy, he had difficulty lifting
his right arm, and he was dragging his RLE. On admission exam, 
he
had dysathria, subtle R NLFF, and right arm and leg weakness
(mostly 4+ and 5- range). He was admitted to the ___ neurology
service, and he was found to have multiple small acute ischemic
strokes which were thought to be secondary to an embolic shower
given the bilateral, scattered appearance (although etiology
unconfirmed). Son also noted a "change in speech." He was 
started
on aspirin 81mg daily, lisinopril 30mg daily, and atorvastatin
80mg daily. Empiric Apixiban was discussed with him, but he
declined this. LDL 149. 

A TTE did not show PFO or thrombus, nor did follow-up TEE. He 
was
discharged with 30 days of cardiac monitoring, which did not 
show
any evidence of arrhythmia. He was seen by Dr. ___ in ___, at which time his exam was only notable for residual right
hand clumsiness. Dr. ___ a CT torso to evaluate
for malignancy, but at his last PCP visit, the patient declined
this. Dr. ___ planned to refer for contious heart 
monitor
implantation if the CT torso was normal. He was also seen in
follow-up by his PCP ___ ___, at which time he noted
"dizziness." 
 
Past Medical History:
*Cards: HTN, HLD
*Neurologic/Psych: Admission in ___ for multiple ischemic 
embolic shower events, p/w R sided weakness.
*Derm: Vitiligo
 
Social History:
___
Family History:
Denies Heart Attack or strokes. No neurological problems or 
seizures.
 
Physical Exam:
**ADMISSION EXAM**
Physical Exam:
Vitals: T: 97.5 P: 77 R: 18  BP: 134/84 SaO2: 100RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Only remembers vomiting,
otherwise unable to provide details of history. Mild speech
latency. Attentive, able to name ___ backward without 
difficulty.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and most low frequency objects(could not name
watch face).  Speech was mildly dysarthric (lingual sounds). 
Able
to follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes ___ with
categorical prompts, ___ with MC). There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric. Mild
dysarthria to lingual sounds.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. Mild pronation of RUE but no 
drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5-    5   5    5    5    5    5   5

-Sensory: No deficits to light touch, sensation, proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  3  3    3    3   1
Plantar response was flexor bilaterally.

-Coordination: Finger tap slow on right. Difficult to assess
cadence due to O2 stat probe on right second finger. No 
intention
tremor, no dysdiadochokinesia noted. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

**DISCHARGE EXAM**
*VS: 98.7 118/66 66 16 99RA
*General: Patient resting comfortably in bed.  Interactive.  
Marked vitiligo present throughout. No acute distress.  
*HEENT: Normocephalic. Atraumatic. No scleral icterus. Moist 
mucous membranes with no visible lesions. 
*Neck: Supple. Trachea midline. No palpable lymphadenopathy. No 
JVD. 
*Cardiovascular: Regular rate and rhythm. No rubs, murmurs, or 
gallops.
*Respiratory: Clear to auscultation bilaterally with no wheezes, 
rales, or rhonchi.
*Abdominal: Nondistended. Soft. Nontender to palpation 
throughout.  No rebound or guarding. Liver not palpable.  Spleen 
not palpable.
*Extremities: Warm and well-perfused.  Peripheral pulses 
palpable.  No edema.
*Neurologic: CN II-XII grossly intact,  Awake, alert, oriented 
to person, place, time. Moving all extremities.
 
Pertinent Results:
================
ADMISSION LABS
================
___ 12:17AM BLOOD WBC-7.7 RBC-4.41* Hgb-8.4*# Hct-30.0* 
MCV-68*# MCH-19.0*# MCHC-28.0* RDW-18.5* RDWSD-44.6 Plt ___
___ 12:17AM BLOOD Neuts-79.5* Lymphs-13.4* Monos-5.7 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-6.15*# AbsLymp-1.04* 
AbsMono-0.44 AbsEos-0.04 AbsBaso-0.03
___ 05:30PM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-2+ 
Macrocy-NORMAL Microcy-3+ Polychr-OCCASIONAL Ovalocy-1+ 
Pencil-OCCASIONAL Tear ___
___ 12:17AM BLOOD ___ PTT-27.5 ___
___ 06:05AM BLOOD Ret Aut-1.6 Abs Ret-0.06
___ 06:05AM BLOOD Lupus-PND
___ 12:17AM BLOOD Glucose-158* UreaN-17 Creat-1.1 Na-137 
K-4.2 Cl-102 HCO3-25 AnGap-14
___ 12:17AM BLOOD ALT-18 AST-17 AlkPhos-147* TotBili-0.5
___ 04:55PM BLOOD GGT-112*
___ 04:55PM BLOOD CK-MB-1 cTropnT-<0.01
___ 12:17AM BLOOD Albumin-4.1 Calcium-9.6 Phos-3.8 Mg-2.0
___ 04:55PM BLOOD TotProt-6.9 Albumin-4.0 Globuln-2.9 
Cholest-126
___ 06:05AM BLOOD calTIBC-372 ___ Ferritn-9.1* 
TRF-286
___ 06:05AM BLOOD ___ 04:55PM BLOOD %HbA1c-5.6 eAG-114
___ 04:55PM BLOOD Triglyc-58 HDL-52 CHOL/HD-2.4 LDLcalc-62
___ 04:55PM BLOOD TSH-2.5
___ 04:55PM BLOOD CRP-10.6*
___ 12:17AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:42AM BLOOD Lactate-1.8
___ 10:00PM URINE Color-Straw Appear-Clear Sp ___
___ 10:00PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-7.0 Leuks-NEG
___ 10:00PM URINE RBC-4* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
================
KEY INTERIM LABS
================
___ 06:05AM BLOOD Ret Aut-1.6 Abs Ret-0.06
___ 06:05AM BLOOD Lupus-NEG
___ 06:05AM BLOOD ___ 06:05AM BLOOD calTIBC-372 ___ Ferritn-9.1* 
TRF-286
___ 05:50AM BLOOD AMA-NEGATIVE
___ 06:05AM BLOOD ___ * Titer-1:1280
___ 06:05AM BLOOD CRP-6.5*
___ 04:55PM BLOOD CRP-10.6*
___ 06:05AM BLOOD SED RATE-Test      
___ 06:05AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-Test    
  
___ 06:05AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-Test      
___ 04:55PM BLOOD SED RATE-Test      
___ 11:55AM OTHER BODY FLUID IPT-DONE
___ 11:55AM OTHER BODY FLUID LYMPHOMA PANEL (TUBES 1 & 
2)-TEST      

================
DISCHARGE LABS
================
___ 05:35AM BLOOD WBC-5.1 RBC-4.03* Hgb-7.5* Hct-27.2* 
MCV-68* MCH-18.6* MCHC-27.6* RDW-18.1* RDWSD-43.8 Plt ___
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD ___ PTT-36.3 ___
___ 05:35AM BLOOD Glucose-97 UreaN-16 Creat-1.0 Na-139 
K-4.2 Cl-104 HCO3-24 AnGap-15
___ 05:35AM BLOOD ALT-26 AST-29 AlkPhos-147* TotBili-0.3
___ 05:35AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.2

================
MICROBIOLOGY
================
___ CULTURE-FINAL no growth
___ CULTUREBlood Culture, 
Routine-PENDING  no growth to date

================
DIAGNOSTICS
================
___ CTA HEAD AND NECK
1. Compared to ___, there is a new infarct involving the 
right inferior parietal, lateral temporal, and superolateral 
occipital lobe.  This infarct has a substantial chronic 
component, with interim enlargement of the atrium of the right 
lateral ventricle indicating parenchymal volume loss. 
2. Multiple small chronic infarcts in the supratentorial white 
matter, basal ganglia, and right thalamus. 
3. No evidence for flow-limiting arterial stenosis in the neck. 
4. Unchanged 2 short-segment foci of narrowing of the distal V4 
segment of the right vertebral artery. 
5. High-grade stenosis of the proximal P1 segment of the left 
posterior 
cerebral artery has progressed since ___. 
6. Hypoplasia versus occlusion of the P1 segment of the right 
posterior 
cerebral artery.  Small patent right posterior communicating 
artery.  Chronic occlusion of the P2 segment of the right 
posterior cerebral artery.  These findings are unchanged since 
___. 
7. Postsurgical changes and chronic inflammation in the 
paranasal sinuses. 
8. Multiple periapical lucencies in the left maxilla.  Please 
correlate 
clinically whether active dental inflammation may be present. 
When 3D reformatted images of finalized by the imaging lab, an 
addendum to 
this report will be issued. 

___ MRI HEAD
Compared to ___, there is a new infarction involving the 
inferior right parietal, lateral right temporal, and 
superior/lateral right occipital lobes.  Portions of the right 
temporal and occipital infarction appear late subacute to 
chronic, with associated new ex vacuo enlargement of the 
occipital and temporal horns of the right lateral ventricle.  
Other portions of the infarction appear early subacute.  No mass 
effect. 
Expected evolution of the multiple small white matter and 
cortical infarcts in the right cerebral hemisphere and left 
centrum semiovale compared to ___. Additional more 
chronic chronic basal ganglia and white matter infarcts, as well 
as presumed sequela of chronic small vessel ischemic disease in 
the supratentorial white matter, are also again seen. 

___ TTE
The left atrial volume index is mildly increased. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. There is 
an anterior space which most likely represents a prominent fat 
pad. 
IMPRESSION: Normal global and regional biventricular systolic 
function. No clinically-significant valvular disease seen.  

___ CT-TORSO
1. Findings are concerning for gastric carcinoma with 
___ lymph node metastases and omental metastasis. 
2. No evidence of malignant disease in the thorax.  Mild 
enlargement of the left thigh thyroid lobe could be further 
clarified by ultrasound.  The upper abdomen is described in 
detail in the abdominal part of the CT report. 

___ cytology
DIAGNOSIS:
 TOUCH PREP OF CORE, INTRA ABDOMINAL LYMPH NODE: POSITIVE FOR 
MALIGNANT CELLS.
 Consistent with undifferentiated malignant tumor.
 See concurrent core biopsy ___ for further 
characterization 

___ interventional radiology
FINDINGS:
 1. Successful CT-guided biopsy of an omental nodule. Pathology 
pending.
 IMPRESSION:
 Successful CT-guided of an omental nodule. Pathology pending.
 

 
Brief Hospital Course:
___ is a ___ RH male with a PMHx of HTN, HL, 
obesity, multiple acute small bilateral ischemic strokes (___), and possible OSA (no formal diagnosis) who presents with 
four episodes of unresponsiveness c/f seizures.

**NEUROLOGY FLOOR COURSE**
#UNRESPONSIVENESS
The four spells were thought to be most probably complex partial 
seizures with secondary generalization and were likely triggered 
by either the recent stroke or the ___ stroke. Head 
imaging showed a new infarct involving the right inferior 
parietal, lateral temporal, and superolateral occipital lobe 
which appeared to be superimposed on chronic infarcts. 
Continuous EEG did not disclose evidence of ongoing seizures or 
identifiable foci, although given the high suspicion for 
seizures, we started levetiracetam which was titrated to 1000mg 
twice daily. He did not have any further events while on the 
floor. No definitive cause of the possible seizures were 
identified; likely, the infarcts may have had triggered them. 
Moreover, given the recurrence of embolic strokes, we were 
concerned about hypercoagulability and occult malignancy, 
especially given the marked weight loss and new-onset microcytic 
anemia present on admission. A TTE was unremarkable. D-dimer was 
elevated concerning for underlying inflammatory state. Patient 
was also not up to date on cancer screening. Therefore, we 
obtained a CT-torso which revealed thickening of the stomach and 
suspicious lymph nodes in the abdomen concerning for gastric 
malignancy. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No  
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 62) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No - not needed  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

#ANEMIA
Microcytic on presentation, which was new since admission in 
___ (baseline 11, normocytic). Haptoglobin 114, Fe 25, 
ferritin 9.1, TIBC 372. CT-torso, as above. Given the imaging 
findings, patient was transferred to the Medicine service.

**MEDICINE FLOOR COURSE**
Pt evaluated with omental biopsy with ___ on ___, path still 
pending at discharge. Course complicated by anemia, likely 
secondary to GIB from mass, H/H has been stable. Telemetry was 
discontinued per neurology recommendations. Patient received 
ferrlicet x 1 dosage, followed by prescription for iron tablets 
for iron deficiency anemia. Started on lovenox for 
anticoagulation given stroke, and keppra for prophylaxis.

TRANSITIONAL ISSUES
# Started lovenox 80mg BID and keppra prophylaxis per neuro 
recommendation. 
# patient received dosage of ferrlicet and was started on iron 
tablets 325 mg qd given evidence of microcytic anemia.
# patient had elevated alkaline phosphatase of unclear etiology, 
without revealing CT explanation. AMA was pending at time of 
discharge.
-Patient had evidence of microscopic hematuria during admission. 
Please repeat a UA in follow-up. Should this be recurrent over 
time, patient may need referral for cystoscopy.
- Systolic BP goal long term should be <140 per neurology
# Holding home ASA given anticoagulation
# Discharge hemoglobin 7.5. 
# Discharge with ___ teaching for lovenox
# Heme/onc to follow-up omental nodule biopsy results and 
coordinate appropriate follow-up 
Code: FULL
Contact: HCP ___ (son) (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Lisinopril 40 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC BID 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg Subcutaneous every twelve (12) 
hours Disp #*90 Syringe Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*45 Tablet Refills:*0 
3.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 

TIA or Stroke (Ischemic or Hemorrhagic)
Seizure
Likely Gastric Carcinoma

SECONDARY DIAGNOSIS: 

Hypertension
Iron Deficiency Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be involved with your care at ___ 
___.

You were admitted to the hospital after you experienced several 
episodes of seizures during an important family event.  You 
received a neurologic evaluation for these seizures which 
included a workup for stroke.  There was evidence of a new 
stroke that was thought to be secondary to another medical 
cause. You received a workup for conditions that can cause clots 
that included imaging of your abdomen, which demonstrated 
findings concerning for cancer of the stomach.  There was 
evidence of thickening of your stomach as well as suspicious 
lymph nodes as well as an omental nodule that was biopsied.  The 
results of this biopsy are pending at the time of discharge, but 
you will most likely will have follow-up in outpatient ___ 
clinic to best determine the course of care from here on.

When you go home it will be very important for you to continue 
your previous medications for blood pressure.  We have also 
started you on a medication to thin your blood and reduce the 
chance that you may have a repeat stroke.  This medication he 
will take twice a day by injection.  It is called Lovenox.  You 
also should continue on the antiseizure medication called 
Keppra.  You should continue both of these new medications until 
you see your new Dr. ___ in ___ to follow-up on the 
stroke.  We also recommend that you see your primary care doctor 
within ___ few weeks of discharge from the hospitalization.

We wish you all the best,
Your ___ ___ Team
 
Followup Instructions:
___